US05242933
1-Benzyl-4-hydroxy-4-(1,4-benzodioxan-5-yl)piperidine
23.3 ml of a 1.6M solution of butyllithium in hexane are added dropwise to a solution, previously cooled to -60° C., of 8 g of 5-bromo-1,4-benzodioxane in 400 ml of tetrahydrofuran. When the addition is complete, the mixture is stirred at -60° C. for 5 minutes and a solution of 8 g of 1-benzylpiperid-4-one in 100 ml of tetrahydrofuran is then added dropwise. The mixture is stirred for 2 hours at -40° C. and then for 2 hours at ambient temperature before hydrolyzing using 80 ml of water.

reactant | butyllithium | C(CCC)[Li]
reactant | 5-bromo-1,4-benzodioxane | 8 g | BrC1=CC=CC=2OCCOC21 | C8H7BrO2
reactant | 1-benzylpiperid-4-one | 8 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | water | 80 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Benzyl-4-hydroxy-4-(1,4-benzodioxan-5-yl)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC=2OCCOC21)O | C20H23NO3
